US04224325
Preparation of 3-chloro-6-(3,5-dimethyl-4-amino-1-pyrazolyl)-pyridazine
A mixture of 3.54 g (0.01 moles) of 3-chloro-6-(3,5-dimethyl-4-phthalimido-1-pyrazolyl)-pyridazine, 40 ml of ethanol and 1.08 g (0.01 moles) of 98% hydrazine hydrate is heated to reflux for 3 hours and the mixture is poured into 100 ml of water. After cooling the precipitated crystals are filtered, washed with water, triturated with 10 ml of hot ethanol, filtered and dried. Yield: 1.8 g (81%); m.p. 165°-168° C.

reactant | 3-chloro-6-(3,5-dimethyl-4-phthalimido-1-pyrazolyl)-pyridazine | 0.01 moles, 3.54 g | ClC=1N=NC(=CC1)N1N=C(C(=C1C)N1C(C=2C(C1=O)=CC=CC2)=O)C | C17H12ClN5O2
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | hydrazine hydrate | 0.01 moles, 1.08 g | O.NN
solvent | water | 100 ml | O | H2O
product | 3-chloro-6-(3,5-dimethyl-4-amino-1-pyrazolyl)-pyridazine | ClC=1N=NC(=CC1)N1N=C(C(=C1C)N)C | C9H10ClN5
